US07544812B2
A solution of 4-[3-(4-methoxy-phenyl)-propyl]-1-(4-methyl-benzyl)-3-propyl-imidazolidin-2-one (1.22 g, assume 3.21 mmol) was dissolved in dry CH2Cl2 (25 mL), cooled to 0° C. and then treated dropwise with BBr3 (2.41 g, 9.63 mmol). The reaction was stirred at 0° C. for 1 h. The reaction mixture was diluted with Et2O and water, the organic layer was dried (MgSO4), and the solvent removed in vacuo to give crude product that was purified by flash chromatography using 1:1 hexanes:EtOAc to afford 0.687 g (68%) 4-[3-(4-hydroxy-phenyl)-propyl]-1-(4-methyl-benzyl)-3-propyl-imidazolidin-2-one. MS (ES+) Calc'd for C23H31N2O2 (M+1) 367. Found m/z 367 (100%). 1H NMR.

reactant | 4-[3-(4-methoxy-phenyl)-propyl]-1-(4-methyl-benzyl)-3-propyl-imidazolidin-2-one | 3.21 mmol, 1.22 g | COC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC | C24H32N2O2
reactant | BBr3 | 9.63 mmol, 2.41 g | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-[3-(4-hydroxy-phenyl)-propyl]-1-(4-methyl-benzyl)-3-propyl-imidazolidin-2-one | 0.687 g, 68% | OC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC | C23H30N2O2
